US04638060
(E) 1-(Benzyloxy)-3-[(t-butoxycarbonyl)amino]-2-oxo-1-azaspiro[3.4]octane
To a solution of N-(benzyloxy)-N2 -(t-butoxycarbonyl)-α-(1-hydroxycyclopentyl)glycinamide (0.82 g, 2.16 mmole) in 15 ml of pyridine under argon was added pyridine-sulfur trioxide complex (0.47 g, 29.5 mmole). The reaction mixture was heated at 50°-55° C. After 1.5 hours, an additional amount (0.150 g, 0.9 mmole) of pyridine-sulfur trioxide complex was added and the reaction was heated for an additional hour. The reaction mixture was then concentrated in vacuo and azeotroped three times with acetonitrile. To this residue was added a cold mixture of potassium carbonate solution (3.32 g/9 ml water) and ethyl acetate (25 ml). The reaction was stirred vigorously and refluxed for two hours at which point tlc indicated that the reaction was near completion. After cooling, the reaction mixture was diluted with water and ethyl acetate and the phases separated. The organic phase was washed with 5% potassium bisulfate solution and brine and dried over anhydrous sodium sulfate. After evaporating to a residue, the crude benzyl ether was chromatographed on LPS-1 (hexane:ethyl acetate, 3:1) to give 550 mg of pure material.

reactant | N-(benzyloxy)-N2 -(t-butoxycarbonyl)-α-(1-hydroxycyclopentyl)glycinamide | 2.16 mmole, 0.82 g | C(C1=CC=CC=C1)ONC(C(NC(=O)OC(C)(C)C)C1(CCCC1)O)=O | C19H28N2O5
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 1-(Benzyloxy)-3-[(t-butoxycarbonyl)amino]-2-oxo-1-azaspiro[3.4]octane | 550 mg | C(C1=CC=CC=C1)ON1C(C(C12CCCC2)NC(=O)OC(C)(C)C)=O | C19H26N2O4
